2179-07-29 07:51:00 Physician Resident Progress Note
Chief Complaint: dyspnea, volume overload
   24 Hour Events:
   -On lasix 20 mg/hr and milrinone 0.375 mcg/kg/min with -1.7L length of
   stay
   -Breathing/SOB improving, per pt
   Allergies:
   Penicillins
   Unknown;
   Heparin Agents
   positive [**Last Name (un) 4055**]
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Milrinone - 0.375 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2179-7-28**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-7-29**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 68 (62 - 78) bpm
   BP: 107/61(70) {83/46(58) - 135/85(91)} mmHg
   RR: 22 (14 - 28) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.6 kg (admission): 116.8 kg
   Height: 69 Inch
             Total In:
                                                                    873 mL
                                                                    524 mL
   PO:
                                                                    660 mL
                                                                    390 mL
   TF:
   IVF:
                                                                    213 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  2,320 mL
                                                                    765 mL
   Urine:
                                                                  2,320 mL
                                                                    765 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,447 mL
                                                                   -241 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 93%
   Physical Examination
   VS: Tm= 98.0 BP=97-112/46-64 HR=67-72 RR= 15-22 O2 sat= 93% on 2L NC
   GENERAL: Resting comfortably, no acute distress, speaking in full
   sentences. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL left pupil slighty larger than
   right, EOMI. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple, no LAD, +JVD to the ear lobe sitting at 45 degrees.
   CARDIAC: RRR, [**1-29**] holosystolic murmur most notable in the sternal
   borders. No thrills, lifts.
   LUNGS: well healed midline sternal scar. Resp were unlabored, no
   accessory muscle use. CTAB, fine bibasilar crackles, no wheezes.
   ABDOMEN: Obese, distended, nontender, No HSM.  Normoactive bowel
   sounds.
   EXTREMITIES: venous stasis dermatitis bilaterally, cool extremities,
   palpable pulses bilaterally.
   Labs / Radiology
   104 K/uL
   14.3 g/dL
   245 mg/dL
   3.0 mg/dL
   29 mEq/L
   4.6 mEq/L
   95 mg/dL
   96 mEq/L
   138 mEq/L
   43.7 %
   12.1 K/uL
        [image002.jpg]
                             [**2179-7-28**]  12:36 PM
                             [**2179-7-28**]  10:00 PM
                             [**2179-7-29**]  05:30 AM
   WBC
   9.5
   12.1
   Hct
   45.4
   43.7
   Plt
   101
   104
   Cr
   2.9
   3.0
   3.0
   Glucose
   354
   320
   245
   Other labs: PT / PTT / INR:13.2/25.1/1.1, Differential-Neuts:81.6 %,
   Lymph:11.5 %, Mono:5.3 %, Eos:1.2 %, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 H/O CARDIOMYOPATHY, OTHER
 H/O DIABETES MELLITUS (DM), TYPE II
   Mr. [**Known lastname **] is a 68 yo M with Ischemic cardiomyopathy EF 20%, s/p CABG
   x2, s/p BIV ICD admitted with acute on chronic CHF exacerbation
   admitted for diuresis.
   .
   # PUMP: He has history of acute on chronic systolic heart failure [**1-25**]
   ischemic cardiomyopathy, EF 20%.  He is s/p mitral valve repair in [**2176**]
   with improvement in cardiac function since.  Now coming in 45-50 pounds
   above his dry weight.
   - Milrinone bolus + gtt, on 0.375 mg/kg/min with goal of titrating up
   to 0.5 mg/kg/min depending on diuresis/bp and ectopy
   - Lasix drip at 20mg/hour
   - has been -1.7L overnight
   -metolazone 5mg [**Hospital1 **]
   -hold spironolactone as creatinine 2.9
   -neosynephrine as needed to support blood pressure
   -electrolytes [**Hospital1 **] with goal of K 5-5.5 (pt has history of VT/ICD firing
   for K <4.8)
   -holding acei given acute on chronic renal failure
   -on BB to prevent ectopy
   - continue outpatient imdur
   .
   # CORONARIES: Extensive history of CAD s/p CABG x2, last cath in [**2176**]
   with LIMA widely patent, SVG to OM with proximal 30% stenosis, SVG jump
   graft to D1 and distal diag patent.  No acute issues.
   -continue asa 81, lipitor 20
   -change carvedilol to metoprolol to allow for more BP room for diuresis
   -holding ACEI given acute on chronic renal failure
   .
   # RHYTHM: Currently in NSR on admission, has BIV PPM/ICD.  Does have
   h/o VT with ICD firing provoked by K <4.8.
   -monitor on telemetry
   -metoprolol to decrease ectopy on milronone
   -monitor K [**Hospital1 **] and replete k to 5-5.5
   -continue amiodarone
   .
   # Chronic renal failure - followed by Dr. [**Last Name (STitle) 8810**], likely [**1-25**]
   combination of chronic systolic heart failure and poorly controlled DM,
   baseline creatinine 2.4-2.9, currently 2.9 on admission.
   -diuresis as above
   -monitor creatinine, expect to increase somewhat
   -continue cinacalcet
   -vitamin D
   .
   # Type II DM - HbA1C [**3-1**] 7.5, followed by Dr. [**Last Name (STitle) 9895**] of the [**Last Name (un) 276**].
   -continue outpatient regimen of 75/25 40 units qam, 50 units qpm with
   NPH 35 units at bedtime
   -finger sticks qid
   -renally dosed gabapentin for neuropathic pain
   .
   # Hypothyroidism - continue home dose levothyroxine
   .
   #OSA - patient has brought home CPAP
   .
   #?Gout - continue renally dosed allopurinol
   .
   # Anxiety - continue home dose ativan prn and ambien for sleep
   .
   #FEN: Diuresis as above, replete Mag >2, K with goal of [**4-27**].5, low
   salt, cardiac diet
   ICU Care
   Nutrition: low salt, cardiac
   Glycemic Control: Comments: 75/25 [**Hospital1 **]
   NPH QHS
   Lines: PIV
   Prophylaxis:
   -DVT ppx with pneumoboots given heparin allergy
   -Pain management with tylenol prn
   -Bowel regimen with colace/senna
   -continue home PPI
   Communication: Family meeting held , ICU consent signed
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks: modest diuresis; pt feels better;
   continue but if creat bumps further need to back off
   Above discussed extensively with patient.
   DNR status discussed. Full code.
   Total time spent on patient care: 45 minutes.  This note signed by me
   48 h after pt visit due to computer lockout
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2179-7-31**]
   12:00 ------

2179-07-30 03:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - milrinone at 0.5 mcg/kg/min
   - lasix at 30 mg/hr, with good response to UOP (120 cc/hr).
   - Will scan abdomen with ultrasound to see assess of ascites
   Allergies:
   Penicillins
   Unknown;
   Heparin Agents
   positive [**Last Name (un) 4055**]
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 30 mg/hour
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-7-30**] 03:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 61 (60 - 69) bpm
   BP: 111/59(71) {85/46(58) - 131/93(96)} mmHg
   RR: 18 (15 - 28) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 116.6 kg (admission): 116.8 kg
   Height: 69 Inch
             Total In:
                                                                  2,242 mL
                                                                     87 mL
   PO:
                                                                  1,750 mL
             TF:
   IVF:
                                                                    492 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  2,855 mL
                                                                    320 mL
   Urine:
                                                                  2,855 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -613 mL
                                                                   -233 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   Physical Examination
   VS: Tm= 98.0 BP=95-126/53-74 HR=60-65 RR= 16-25 O2 sat= 95% on 3L NC
   GENERAL: Resting comfortably, no acute distress, speaking in full
   sentences. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL left pupil slighty larger than
   right, EOMI. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple, no LAD, +JVD to the ear lobe sitting at 45 degrees.
   CARDIAC: RRR, [**1-29**] holosystolic murmur most notable in the sternal
   borders. No thrills, lifts.
   LUNGS: well healed midline sternal scar. Resp were unlabored, no
   accessory muscle use. CTAB, fine bibasilar crackles, no wheezes.
   ABDOMEN: Obese, distended, nontender, No HSM.  Normoactive bowel
   sounds.
   EXTREMITIES: venous stasis dermatitis bilaterally, cool extremities,
   palpable pulses bilaterally.
   Labs / Radiology
   107 K/uL
   14.5 g/dL
   310 mg/dL
   3.2 mg/dL
   30 mEq/L
   4.2 mEq/L
   89 mg/dL
   93 mEq/L
   136 mEq/L
   44.8 %
   9.9 K/uL
        [image002.jpg]
                             [**2179-7-28**]  12:36 PM
                             [**2179-7-28**]  10:00 PM
                             [**2179-7-29**]  05:30 AM
                             [**2179-7-29**]  05:23 PM
                             [**2179-7-29**]  11:19 PM
   WBC
   9.5
   12.1
   Hct
   45.4
   43.7
   Plt
   101
   104
   Cr
   2.9
   3.0
   3.0
   3.4
   3.2
   Glucose
   354
   320
   245
   352
   310
   Other labs: PT / PTT / INR:13.2/25.1/1.1, Differential-Neuts:81.6 %,
   Lymph:11.5 %, Mono:5.3 %, Eos:1.2 %, Ca++:9.4 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.3 mg/dL
   Assessment and Plan
 H/O CARDIOMYOPATHY, OTHER
 H/O DIABETES MELLITUS (DM), TYPE II
   Mr. [**Known lastname **] is a 68 yo M with Ischemic cardiomyopathy EF 20%, s/p CABG
   x2, s/p BIV ICD admitted with acute on chronic CHF exacerbation
   admitted for diuresis.
   .
   # PUMP: He has history of acute on chronic systolic heart failure [**1-25**]
   ischemic cardiomyopathy, EF 20%.  He is s/p mitral valve repair in [**2176**]
   with improvement in cardiac function since.  Now coming in 45-50 pounds
   above his dry weight.
   - Milrinone gtt on at 0.5 mg/kg/min
   - Lasix drip at 30mg/hour
   - has been -1100 mL overnight, total -2.5L over 2 days
   -metolazone 5mg [**Hospital1 **]
   -hold spironolactone as creatinine 3.2
   -neosynephrine as needed to support blood pressure
   -electrolytes [**Hospital1 **] with goal of K 5-5.5 (pt has history of VT/ICD firing
   for K <4.8)
   -holding acei given acute on chronic renal failure
   -on BB to prevent ectopy
   - continue outpatient imdur
   -Will stop diuresis if Cr>3.5 or if his ultrasound shows no ascites.
   .
   # CORONARIES: Extensive history of CAD s/p CABG x2, last cath in [**2176**]
   with LIMA widely patent, SVG to OM with proximal 30% stenosis, SVG jump
   graft to D1 and distal diag patent.  No acute issues.
   -continue asa 81, lipitor 20
   -change carvedilol to metoprolol to allow for more BP room for diuresis
   -holding ACEI given acute on chronic renal failure
   .
   # RHYTHM: Currently in NSR on admission, has BIV PPM/ICD paced at
   HR=60.  Does have h/o VT with ICD firing provoked by K <4.8.
   -Will increase pacer HR to 70 today to maximize CRT
   -monitor on telemetry
   -metoprolol to decrease ectopy on milronone
   -monitor K [**Hospital1 **] and replete k to 5-5.5
   -continue amiodarone
   .
   # Chronic renal failure - followed by Dr. [**Last Name (STitle) 8810**], likely [**1-25**]
   combination of chronic systolic heart failure and poorly controlled DM,
   baseline creatinine 2.4-2.9, currently 2.9 on admission.
   -diuresis as above
   -monitor creatinine, expect to increase somewhat
   -continue cinacalcet
   -vitamin D
   .
   # Type II DM - HbA1C [**3-1**] 7.5, followed by Dr. [**Last Name (STitle) 9895**] of the [**Last Name (un) 276**].
   -continue outpatient regimen of 75/25 40 units qam, 50 units qpm with
   NPH 35 units at bedtime
   -finger sticks qid
   -renally dosed gabapentin for neuropathic pain
   .
   # Hypothyroidism - continue home dose levothyroxine
   .
   #OSA - patient has brought home CPAP
   .
   #?Gout - continue renally dosed allopurinol
   .
   # Anxiety - continue home dose ativan prn and ambien for sleep
   .
   #FEN: Diuresis as above, replete Mag >2, K with goal of [**4-27**].5, low
   salt, cardiac diet
   ICU Care
   Nutrition: low salt, cardiac
   Glycemic Control:  75/25 [**Hospital1 **], NPH QHS
   Lines:  PIV
   20 Gauge - [**2179-7-28**] 12:00 PM
   Prophylaxis:
   DVT: pboots, no heparin given allergy
   Stress ulcer: colace, senna
   VAP:
   Comments: ICU consent signed
   Communication:  Comments:
   Code status: full code
   Disposition: CCU for now
   ------ Protected Section ------
   Attending.s Note.
   Agree with Dr.[**Last Name (STitle) 9429**]
s note.
   Examined Pt and reviewed data.
   Still has significant Right heart failure.Will need [**Last Name (un) **] U/S to assess
   extent of ascites.
   Spent 45 mins on case.
   [**First Name5 (NamePattern1) 1626**] [**Last Name (NamePattern1) 9922**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1626**] [**Name (NI) **]
   on:[**2179-7-30**] 10:17 ------

2179-07-31 03:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**2179-7-30**]- Changed paced rate from 60 to 70 to improve CO.  Also will
   shorten PR interval.  Ultrasound shows no ascites.  Creatinine remains
   below 3.5 which is Dr.[**Initials (NamePattern4) 6567**] [**Last Name (NamePattern4) 9934**] for stopping diuresis.  Blood
   sugar control remains a problem-> home regimen of long acting insulins
   increased and humalog SS tightened.  A1C=9.2 (was running 7.5, 7.1 at
   last two readings) and TSH=0.14 (therefore increased Synthroid to
   200mcg from 175 mcg as thyroid function can affect sugar control).
   Night sugars running in the 300s still (long acting increased as well
   as Humalog).
   Allergies:
   Penicillins
   Unknown;
   Heparin Agents
   positive [**Last Name (un) 4055**]
   Last dose of Antibiotics:
   Infusions:
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2179-7-30**] 08:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-7-31**] 03:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (96.9
   HR: 71 (58 - 72) bpm
   BP: 94/55(65) {94/51(63) - 133/109(114)} mmHg
   RR: 17 (16 - 26) insp/min
   SpO2: 92%
   Heart rhythm: AV Paced
   Wgt (current): 116.1 kg (admission): 116.8 kg
   Height: 69 Inch
             Total In:
                                                                  1,359 mL
                                                                     63 mL
   PO:
                                                                    790 mL
             TF:
   IVF:
                                                                    569 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  2,600 mL
                                                                    260 mL
   Urine:
                                                                  2,600 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,241 mL
                                                                   -197 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///26/
   Physical Examination
   GENERAL: Resting comfortably, no acute distress, speaking in full
   sentences. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL left pupil slighty larger than
   right, EOMI. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple, no LAD, +JVD to the ear lobe sitting at 45 degrees.
   CARDIAC: RRR, [**1-29**] holosystolic murmur most notable in the sternal
   borders. No thrills, lifts.
   LUNGS: well healed midline sternal scar. Resp were unlabored, no
   accessory muscle use. CTAB, fine bibasilar crackles, no wheezes.
   ABDOMEN: Obese, distended, nontender, No HSM.  Normoactive bowel
   sounds.
   EXTREMITIES: venous stasis dermatitis bilaterally, cool extremities,
   palpable pulses bilaterally.
   Labs / Radiology
   107 K/uL
   14.5 g/dL
   260 mg/dL
   3.5 mg/dL
   27 mEq/L
   4.2 mEq/L
                                     101
                                     dL
   94 mEq/L
   136 mEq/L
   44.8 %
   9.9 K/uL
        [image002.jpg]
                             [**2179-7-28**]  12:36 PM
                             [**2179-7-28**]  10:00 PM
                             [**2179-7-29**]  05:30 AM
                             [**2179-7-29**]  05:23 PM
                             [**2179-7-29**]  11:19 PM
                             [**2179-7-30**]  06:29 AM
                             [**2179-7-30**]  04:05 PM
   WBC
   9.5
   12.1
   9.9
   Hct
   45.4
   43.7
   44.8
   Plt
   101
   104
   107
   Cr
   2.9
   3.0
   3.0
   3.4
   3.2
   3.4
   3.2
   Glucose
   354
   320
   245
   [**Telephone/Fax (3) 9929**]
   260
   Other labs: PT / PTT / INR:13.2/25.1/1.1, Differential-Neuts:81.6 %,
   Lymph:11.5 %, Mono:5.3 %, Eos:1.2 %, Ca++:9.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 68 yo M with Ischemic cardiomyopathy EF 20%, s/p CABG
   x2, s/p BIV ICD admitted with acute on chronic CHF exacerbation
   admitted for diuresis.
   .
   # PUMP: He has history of acute on chronic systolic heart failure [**1-25**]
   ischemic cardiomyopathy, EF 20%.  He is s/p mitral valve repair in [**2176**]
   with improvement in cardiac function since.  Now coming in 45-50 pounds
   above his dry weight.
   - stop milrinone and lasix gtt given Cr and u/s showing no ascites
   - start home dose of lasix 120mg daily
   - metolazone 5mg qMonday.  Give extra if fluid overloaded.
   - has been -197mL overnight, ~3L total while hospitalized
   -restart spironolactone at 25mg daily
   -neosynephrine as needed to support blood pressure
   -electrolytes [**Hospital1 **] with goal of K 5-5.5 (pt has history of VT/ICD firing
   for K <4.8)
   -holding acei given acute on chronic renal failure
   -on BB to prevent ectopy
   - continue outpatient imdur
   -Will stop diuresis if Cr>3.5 or if his ultrasound shows no ascites.
   .
   # CORONARIES: Extensive history of CAD s/p CABG x2, last cath in [**2176**]
   with LIMA widely patent, SVG to OM with proximal 30% stenosis, SVG jump
   graft to D1 and distal diag patent.  No acute issues.
   -continue asa 81, lipitor 20
   -change carvedilol to metoprolol to allow for more BP room for diuresis
   -holding ACEI given acute on chronic renal failure
   .
   # RHYTHM: Currently in NSR on admission, has BIV PPM/ICD paced at
   HR=60.  Does have h/o VT with ICD firing provoked by K <4.8.
   -Will increase pacer HR to 70 today to maximize CRT
   -monitor on telemetry
   -metoprolol to decrease ectopy on milronone
   -monitor K [**Hospital1 **] and replete k to 5-5.5
   -continue amiodarone
   .
   # Chronic renal failure - followed by Dr. [**Last Name (STitle) 8810**], likely [**1-25**]
   combination of chronic systolic heart failure and poorly controlled DM,
   baseline creatinine 2.4-2.9, currently 2.9 on admission.
   -diuresis as above
   -monitor creatinine, expect to increase somewhat
   -continue cinacalcet
   -vitamin D
   .
   # Type II DM - HbA1C [**3-1**] 7.5, followed by Dr. [**Last Name (STitle) 9895**] of the [**Last Name (un) 276**].
   -continue outpatient regimen of 75/25 40 units qam, 50 units qpm with
   NPH 35 units at bedtime
   -finger sticks qid
   -renally dosed gabapentin for neuropathic pain
   .
   # Hypothyroidism - continue home dose levothyroxine
   .
   #OSA - patient has brought home CPAP
   .
   #?Gout - continue renally dosed allopurinol
   .
   # Anxiety - continue home dose ativan prn and ambien for sleep
   .
   #FEN: Diuresis as above, replete Mag >2, K with goal of [**4-27**].5, low
   salt, cardiac diet
   ICU Care
   Nutrition: low salt, cardiac
   Glycemic Control:  75/25 [**Hospital1 **], NPH QHS
   Lines:  PIV
   20 Gauge - [**2179-7-28**] 12:00 PM
   Prophylaxis:
   DVT: pboots, no heparin given allergy
   Stress ulcer: colace, senna
   VAP:
   Comments: ICU consent signed
   Communication:  Comments:
   Code status: full code
   Disposition: CCU for now
   ------ Protected Section ------
   Attending
s Note
   I reviewed overnight course,and data.examined Pt.
   Agree with Dr.[**Last Name (STitle) 9894**]
s note and plan of Rx.
   Spent 45mibns oncase.
   [**First Name4 (NamePattern1) 1626**] [**Last Name (NamePattern1) **]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1626**] [**Name (NI) **]
   on:[**2179-7-31**] 09:45 ------

2179-08-01 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Fell out of bed this AM while reaching for breakfast menu.  Denied any
   LOC, dizziness, shortness of breath, chest pain.  Says he just lost his
   balance.
   No complaints overnight.
   Allergies:
   Penicillins
   Unknown;
   Heparin Agents
   positive [**Last Name (un) 4055**]
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2179-7-31**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-8-1**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 70 (70 - 71) bpm
   BP: 95/55(65) {85/54(49) - 137/101(107)} mmHg
   RR: 17 (17 - 30) insp/min
   SpO2: 90%
   Heart rhythm: V Paced
   Wgt (current): 117.4 kg (admission): 116.8 kg
   Height: 69 Inch
                  Total In:
                                                                  1,374 mL
                  PO:
                                                                  1,170 mL
                  TF:
   IVF:
                                                                    204 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                      0 mL
   Urine:
                                                                  1,810 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -436 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///26/
   Physical Examination
   GENERAL: Resting comfortably, no acute distress, speaking in full
   sentences. Oriented x3. Mood, affect appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL left pupil slighty larger than
   right, EOMI. Conjunctiva were pink, no pallor or cyanosis of the oral
   mucosa. No xanthalesma.
   NECK: Supple, no LAD, +JVD to the ear lobe sitting at 45 degrees.
   CARDIAC: RRR, [**1-29**] holosystolic murmur most notable in the sternal
   borders. No thrills, lifts.
   LUNGS: well healed midline sternal scar. Resp were unlabored, no
   accessory muscle use. CTAB, fine bibasilar crackles, some wheezes.
   ABDOMEN: Obese, distended, nontender, No HSM.  Normoactive bowel
   sounds.
   EXTREMITIES: venous stasis dermatitis bilaterally, cool extremities,
   palpable pulses bilaterally.
   Labs / Radiology
   108 K/uL
   14.9 g/dL
   66 mg/dL
   3.6 mg/dL
   26 mEq/L
   4.9 mEq/L
   108 mg/dL
   95 mEq/L
   136 mEq/L
   43.6 %
   9.2 K/uL
        [image002.jpg]
                             [**2179-7-28**]  12:36 PM
                             [**2179-7-28**]  10:00 PM
                             [**2179-7-29**]  05:30 AM
                             [**2179-7-29**]  05:23 PM
                             [**2179-7-29**]  11:19 PM
                             [**2179-7-30**]  06:29 AM
                             [**2179-7-30**]  04:05 PM
                             [**2179-7-31**]  04:33 AM
                             [**2179-7-31**]  06:40 PM
                             [**2179-8-1**]  04:32 AM
   WBC
   9.5
   12.1
   9.9
   9.2
   Hct
   45.4
   43.7
   44.8
   43.6
   Plt
   101
   104
   107
   108
   Cr
   2.9
   3.0
   3.0
   3.4
   3.2
   3.4
   3.2
   3.5
   3.5
   3.6
   Glucose
   354
   320
   245
   [**Telephone/Fax (2) 9950**]
   66
   Other labs: PT / PTT / INR:13.2/25.1/1.1, Differential-Neuts:81.6 %,
   Lymph:11.5 %, Mono:5.3 %, Eos:1.2 %, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL,
   PO4:4.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 68 yo M with Ischemic cardiomyopathy EF 20%, s/p CABG
   x2, s/p BIV ICD admitted with acute on chronic CHF exacerbation
   admitted for diuresis.
   .
   # PUMP: He has history of acute on chronic systolic heart failure [**1-25**]
   ischemic cardiomyopathy, EF 20%.  He is s/p mitral valve repair in [**2176**]
   with improvement in cardiac function since.  Now coming in 45-50 pounds
   above his dry weight.
   - yesterday- stopped milrinone and lasix gtt given Cr and u/s showing
   no ascites
   - restarted spironolactone at 25mg daily
   - home dose of lasix 160mg [**Hospital1 **] started today
   - holding acei given acute on chronic renal failure
   - metolazone 5mg qMonday.  Give extra if fluid overloaded.
   - has been -436mL overnight, ~4L total while hospitalized
   - electrolytes [**Hospital1 **] with goal of K 5-5.5 (pt has history of VT/ICD
   firing for K <4.8)
   - on BB to prevent ectopy
   - continue outpatient imdur
   - diuresis stopped now that Cr is 3.5
   .
   # CORONARIES: Extensive history of CAD s/p CABG x2, last cath in [**2176**]
   with LIMA widely patent, SVG to OM with proximal 30% stenosis, SVG jump
   graft to D1 and distal diag patent.  No acute issues.
   -continue asa 81, lipitor 20
   -restart on home carvedilol.
   -holding ACEI given acute on chronic renal failure
   .
   # RHYTHM: Currently in NSR on admission, has BIV PPM/ICD paced at
   HR=60.  Does have h/o VT with ICD firing provoked by K <4.8.
   -Increased pacer HR to 70 yesterday to maximize CRT
   -monitor on telemetry
   -restart on carvedilol 12.5mg [**Hospital1 **] today
   -monitor K [**Hospital1 **] and replete k to 5-5.5
   -continue amiodarone
   .
   # Chronic renal failure - followed by Dr. [**Last Name (STitle) 8810**], likely [**1-25**]
   combination of chronic systolic heart failure and poorly controlled DM,
   baseline creatinine 2.4-2.9, currently 2.9 on admission.
   -diuresis as above
   -monitor creatinine, expect to increase somewhat
   -continue cinacalcet
   -vitamin D
   .
   # Type II DM - HbA1C on this visit- 9.2, followed by Dr. [**Last Name (STitle) 9895**] of the
   [**Last Name (un) 276**].
   -continue outpatient regimen of 75/25 40 units qam, 50 units qpm with
   NPH 35 units at bedtime
   -finger sticks qid
   -renally dosed gabapentin for neuropathic pain
   .
   # Hypothyroidism - continue home dose levothyroxine
   .
   #OSA - patient has brought home CPAP
   .
   #?Gout - continue renally dosed allopurinol
   .
   # Anxiety - continue home dose ativan prn and ambien for sleep
   .
   #FEN: Diuresis as above, replete Mag >2, K with goal of [**4-27**].5, low
   salt, cardiac diet
   ICU Care
   Nutrition: low salt, cardiac
   Glycemic Control:  75/25 [**Hospital1 **], NPH QHS
   Lines:  PIV
   20 Gauge - [**2179-7-28**] 12:00 PM
   Prophylaxis:
   DVT: pboots, no heparin given allergy
   Stress ulcer: colace, senna
   VAP:
   Comments: ICU consent signed
   Communication:  Comments:
   Code status: full code
   Disposition: PT, then likely home today vs. tomorrow
   ------ Protected Section ------
   Attending
s Note
   I reviewed data and overnight course.Agree with Dr.[**Last Name (STitle) 9429**]
s Note
   Examined Pt and he is euvolemic
   Ambulate and if stable with PT then can be discharged.
   Spent 45 mins on case.
   [**First Name4 (NamePattern1) 1626**] [**Last Name (NamePattern1) **]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1626**] [**Name (NI) **]
   on:[**2179-8-1**] 10:28 ------